US06809097B1
A solution of 3-hydroxy-4-methylaniline (68 mg, 0.55 mmol) and 7-benzyloxy-4-chloro-6-methoxyquinoline hydrochloride (168 mg, 0.5 mmol), (prepared as described for the starting material in Example 3), in 2-ethoxyethanol (5 ml) was heated at reflux for 1 hour. The mixture was allowed to cool, the precipitate collected by filtration, washed with 2-ethoxyethanol and then ether and dried under vacuum to give 7-benzyloxy-4-(3-hydroxy-4-methylanilino)-6-methoxyquinoline hydrochloride (130 mg, 61%).

reactant | 3-hydroxy-4-methylaniline | 0.55 mmol, 68 mg | OC=1C=C(N)C=CC1C | C7H9NO
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline hydrochloride | 0.5 mmol, 168 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC
solvent | 2-ethoxyethanol | 5 ml | C(C)OCCO | C4H10O2
product | 7-benzyloxy-4-(3-hydroxy-4-methylanilino)-6-methoxyquinoline hydrochloride | 130 mg, 61% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)NC1=CC(=C(C=C1)C)O)OC | InChI=1S/C24H22N2O3.ClH/c1-16-8-9-18(12-22(16)27)26-20-10-11-25-21-14-24(23(28-2)13-19(20)21)29-15-17-6-4-3-5-7-17;/h3-14,27H,15H2,1-2H3,(H,25,26);1H
